US04159981
5. H-Met-Leu-Gly-OMe.Hydrochloride
3.24 g of BOC-Met-Leu-Gly-OMe are dissolved in 13 ml of 3.8 N hydrogen chloride in ethyl acetate and allowed to stand for 30 minutes at 20° C. On adding 100 ml of petroleum ether the tripeptide ester hydrochloride is precipitated as a sticky mass, and the supernatant solution is decanted off. On triturating with 100 ml of peroxide-free ether at 0° C. a finely powdered product is obtained which is filtered off and dried to constant weight over potassium hydroxide at room temperature in a desiccator. The compound is chromatographically pure but amorphous and strongly hygroscopic. It shows the following Rf-values on silica gel: Rf 43 C = 0.48; Rf (toluene-acetone 1:1) = 0.35.

reactant | BOC-Met-Leu-Gly-OMe | 3.24 g | N([C@@H](CCSC)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OC)C(=O)OC(C)(C)C | C19H35N3O6S
reactant | hydrogen chloride | 3.8 N, 13 ml | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | H-Met-Leu-Gly-OMe.Hydrochloride | N[C@@H](CCSC)C(=O)N[C@@H](CC(C)C)C(=O)NCC(=O)OC.Cl | InChI=1S/C14H27N3O4S.ClH/c1-9(2)7-11(14(20)16-8-12(18)21-3)17-13(19)10(15)5-6-22-4;/h9-11H,5-8,15H2,1-4H3,(H,16,20)(H,17,19);1H/t10-,11-;/m0./s1
